* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt MAX40023 1 2 3 4 5 6
* CM / DM Input Parameters 
C2  1 4 500E-15
C3  2 4 500E-15
R19  1 4 30.0E12
R20  2 4 30.0E12
R21  1 2 12.5E12
C13  1 2 750E-15
* Differential Stage
GIVR 0 IVR 14 0 1m
RIVR 0 IVR 1k Noiseless
CIVR IVR 0 1.59f
BCMPI 0 CMpi I=1m*(V(3)+{Vcm_max})
RCMPI CMpi 0 1k Noiseless
CCMPI CMpi 0 1n
BCMNI 0 CMni I=1m*(V(4)+{Vcm_min})
RCMNI CMni 0 1k Noiseless
CCMNI CMni 0 1n
GCMP 0 CMp CMpi 0 1k
RCMP 0 CMp 1m Noiseless
GCMN 0 CMn CMni 0 1k
RCMN 0 CMn 1m Noiseless
DIP CMp IVR DI
DIN IVR CMn DI
CIN IVR CMn 1f
CIP IVR CMp 1f
* Noise Stage 
I2 21 20 1.00
D1 20  0 DN1
D2  0 21 DN1
I3 22 23 1N
R10 22 0  1k
R11  0 23 1k
B_E1 71 14 I=V(20) * 5.05 + V(21) * 5.05 + V(22) * 5.05 + V(23) * 5.05
R_E1 71 14 1 Noiseless
I8 0 70 DC 1
R22 0 70 1 TC=1.00U
B_E5 1 71 I=V(70)-1
R_E5 1 71 1 Noiseless
EG1 VIBIAS 0 62 0 1
EG2 VIBIOS 0 63 0 1
EB1 VIB1 0 VALUE { (V(VIBIAS)+V(VIBIOS)) /2 }
EB2 VIB2 0 VALUE { (V(VIBIAS)-V(VIBIOS)) /2 }
GB1 1 0 VIB1 0 1u
GB2 2 0 VIB2 0 1u
I6 0 62 DC 1uA
VIB200 62A 62 DC 0.00
R17 0 62A REXP  118.79749M
I7 0 63 DC 1uA
V100 63A 63 DC 0
R18 0 63A 500M TC=0.00,0.00
R16 0 61 1 TC=-214U,-415N
G61 3 4 61 0 1
G60 0 61 TABLE { V(3, 4) } ((0, 0)(500M,16.0E-18)(1.6,16.0U)(2.1,15.9U)(2.6,15.9U)(3.2,16.0U)(3.6,16.0U))
* PSRR / CMRR 
G30 0 110 3 0 22.3U
R30 110 0 1G 
GR30 110 0 110 0 1m 
C30 110 0 548U
G31 0 111 110 0 1 
L31 111 112 110M
R32 112 0 1G 
GR32 112 0 112 0 1 
G33 0 114 111 0 1 
R34 114 0 1G 
C34 114 0 159P
GR34 114 0 114 0 1 
G35 0 115 114 0 1 
L35 115 116 159P
R36 116 0 1G 
GR36 116 0 116 0 1 
G37 0 117 115 0 1 
R37 117 0 1G 
C37 117 0 159P
GR37 117 0 117 0 1 
G38 0 118 117 0 1 
L38 118 119 159P
R39 119 0 1G 
GR39 119 0 119 0 1 
G40 0 120 4 0 22.3U
R40 120 0 1G 
GR40 120 0 120 0 1m 
C40 120 0 548U
G41 0 121 120 0 1 
L41 121 122 110M
R42 122 0 1G 
GR42 122 0 122 0 1 
G43 0 124 121 0 1 
R44 124 0 1G 
C44 124 0 159P
GR44 124 0 124 0 1 
G45 0 125 124 0 1 
L45 125 126 159P
R46 126 0 1G 
GR46 126 0 126 0 1 
G147 0 127 125 0 1 
R47 127 0 1G 
C47 127 0 159P
GR47 127 0 127 0 1 
G48 0 128 127 0 1 
L48 128 129 159P
R49 129 0 1G 
GR49 129 0 129 0 1 
G50 0 130 VALUE { ( V(1)+V(2))/2 * 10.0U}
R50 130 0 1G 
GR50 130 0 130 0 1m 
C50 130 0 548U
G51 0 131 130 0 1 
L51 131 132 15.9
R51 132 0 1G 
GR51 132 0 132 0 1 
G53 0 133 131 0 1 
R53 133 0 1G 
C53 133 0  1.59
GR53 133 0 133 0 1 
G55 0 134 133 0 1 
L55 134 135 7.96M
R55 135 0 1G 
GR55 135 0 135 0 1 
G57 0 137 134 0 1 
R57 137 0 1G 
C57 137 0  187U
GR57 137 0 137 0 1 
*
G55A 0 138 137 0 1 
L55A 138 139 15.9U
R55A 139 0 1G 
GR55A 139 0 139 0 1 
G57A 0 141 138 0 1 
R57A 141 0 1G 
C57A 141 0  5.89U
GR57A 141 0 141 0 1 
*
* OP Amp Output Gain / Response 
G3A  0 30A IVR 2 1 
RG3A 30A 0 1 
G3  0 30 30A 0 1 
R3 30  0 1.00K
G6  0 33 30 0 1m
R6  33 0 1K
R7  34 0 1K
C7  34 0 {Cfp1}
BSR 0 34 I=Uplim(Dnlim(V(33)*355m, {Isink},1m),{Isrc},1m)
C_30 30 0 1f
C_33 33 0 1f
G8  0 37 34 0 1m
R8  37 0 1K
C8  37 0 964P
G88A 0 377A 37 0 1m
R88A 377A 0 1G
GR88A 377A 0 377A 0 1m
C88A  377A 0 79.5P
G888A 0 378A 377A 0 1m
R888A 378A 0 1G
GR888A 378A 0 378A 0 1m
C888A  378A 0 17.6P
G9  0 38 378A 0 1m
R9  39 0 1K
L9  38 39 159N
B_E9 0 35 I={1/Zo_dc}*V(38)+V(118)+V(128)+V(137)
R_E9 0 35 {Zo_dc} Noiseless
* Output Impedance / Saturation / Current Limit 
B1 0 N001 I=Uplim(Dnlim({G1_Zo}* V(35,57), {Izon}, 25m), {Izop}, 25m)
R_B1 N001 0 1 Noiseless
RX 57 N001 {Rx_Zo} Noiseless
RDUMMY 57 0 {Rdummy_Zo} Noiseless
R23 50 0 100MEG
VR15 57 96 0
R15X 57 96 1G
F1 0 50 VR15 1
G23X  0 57X VALUE { V(35) * 10.0M + V(118) + V(128) + V(141) } 
R14X 57X  0 100
E3 55  0 VALUE { 0.00 + V(3) * 1 + V(51) * -18.4M }
E4 56  0 VALUE { 0.00 + V(4) * 1 + V(52) * -25.6M }
R12 51 0 1k
R13 52 0 1k
GD12 50 51 VALUE={( IF( (V(50,51))>0,V(50,51)/0.002,V(50,51)/1E9 ) ) }
GD13 50 52 VALUE={( IF( (V(50,52))>0,V(50,52)/1E9,V(50,52)/0.002 ) ) }
G21  3  0 VALUE { 0 + V(51) * 1M }
G22  0  4 VALUE { 0 + V(52) * -1M }
R_96_5 96 5 1m
S1000 1003 0 1001 1000B SSHUT
E1001 1000B 0 3 4 500M
S1000X 30A 4X 1004 0 SSHUT2
V1000X 0 4X 43.3
V1001 1002 0 1
S1001 5X 5 1004 0 SOUT
C_S1001 5X 5 .1P 
S1002 61 0 1004 0 SCAP
C1000 1004 0 100n IC=0 
R1000A 1004 0 1G 
E1000 1001 0 6 4 1
SD1002 1004 1002 1004 1002 SDIODE
SD1003 0 1004 0 1004 SDIODE
G1000 1004 0 1002 1003 12.5M
G1001 0 1004 1003 0 50.0M
R1000 6 4 36.0MEG
R1001 1002 1003 1k
S_D4 3 5 5 3 ESDO
S_D3 5 4 4 5 ESDO
DOP Vsatp 57 DO
COP 57 Vsatp 1f
DON 57 Vsatn DO
CON 57 Vsatn 1f
GSATP 0 Vsatp 55 0 1k
RSATP Vsatp 0 1m
GSATN 0 Vsatn 56 0 1k
RSATN Vsatn 0 1m
CSATP Vsatp 0 1n
CSATN Vsatn 0 1n
DGP N007 34 DG
DGN 34 N008 DG
GRP 0 N007 GRpi 0 1k
GRN 0 N008 GRni 0 1k
RRP N007 0 1m Noiseless
RRN N008 0 1m Noiseless
RGRP GRpi 0 1k Noiseless
RGRN GRni 0 1k Noiseless
CGRN GRni 0 10p
CGRP GRpi 0 10p
CGP 34 N007 1f
CGN 34 N008 1f
BGRP 0 GRpi I=1m*({Zo_max}* {Iscp}+V(3))
BGRN 0 GRni I=1m*({Zo_max}* {Iscn}+V(4))
* Models
.MODEL ESDO SW (Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.MODEL SSHUT SW RON=1m ROFF=100MEG VT=0 VH=-10m
.MODEL SSHUT2 SW RON=1m ROFF=1G VT=500m VH=-5m
.MODEL SOUT SW RON=1G ROFF=1m VT=500m VH=-5m
.MODEL SCAP SW RON=3.38m ROFF=1G VT=500m VH=-5m
.MODEL SDIODE SW RON=10m ROFF=1G VT=0 VH=-5m
.MODEL DN1 D   IS=1P KF=450E-15 AF=1
.MODEL REXP  RES TCE= 8.65549
.MODEL DIDL2 D() 
.MODEL DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.MODEL DG D(Vfwd=10k Vrev=0 Revepsilon=0.5 Noiseless Ron=1m)
.MODEL DI D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.param Vcm_min=-0.1 Vcm_max=0.1
.param Zo_dc=100
.param Cfp1=548u
.param SRp=21.8m SRn=-22.3m
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param beta_Zo=1.13
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_max={Zo_dc}
.param Iscp=10m Iscn=-10m
.param IZop={Rx_Zo*Iscp} IZon={Rx_Zo*Iscn}
*
.ENDS MAX40023